US04446319
Sodium borohydride (55 g) is added by portions to a solution of 9-bromo-6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane (100 g) in water (1.3 l) at 25°-30° C. with stirring. After stirring for 2 hours at the same temperature, the reaction mixture is adjusted to pH 6-7 with acetic acid and concentrated to about 800 ml under reduced pressure. The concentrate is chromatographed on a column of activated carbon (4.8 l), and the column is washed with water (5 l) and eluted with 50% aqueous methanol. The eluate is concentrated under reduced pressure. Methanol (350 ml) is added to the residue and refluxed for 10-20 minutes to remove a methanol soluble by-product. The mixture is allowed to stand in a refrigerator overnight, and the resulting crystals are collected by filtration, followed by washing with cold methanol and drying in a desiccator under reduced pressure to give 6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane (64 g).

reactant | Sodium borohydride | 55 g | [BH4-].[Na+]
reactant | 9-bromo-6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | 100 g | BrC1C2(OC(NC1C(C(C2O)O)O)=O)CO | C8H12BrNO6
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 1.3 l | O | H2O
product | 6,7,8-trihydroxy-1-hydroxymethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | 64 g | OC1C2NC(OC(C(C1O)O)(C2)CO)=O | C8H13NO6
